US04189436
Preparation of β-oxo-3-thiophenepropionitrile
A 1.2 g. portion of β-amino-3-thiopheneacrylonitrile is added to 10 ml. of 1 N hydrochloric acid. A 40 ml. portion of methanol is added and the mixture is stirred for 3 hours. The mixture is evaporated in vacuo to a residue which is dissolved in 35 ml. of hot methanol and treated with charcoal. After cooling, petroleum ether is added, the mixture is filtered and the solid collected is discarded. The filtrate is allowed to evaporate and the residue is dissolved in 35 ml. of hot isopropanol and isoluble material filtered and discarded. The filtrate is cooled and the solid is collected giving the desired product as white plates, m.p. 87°-88° C.

reactant | β-amino-3-thiopheneacrylonitrile | NC(=CC#N)C1=CSC=C1 | C7H6N2S
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | methanol | CO | CH4O
product | β-oxo-3-thiophenepropionitrile | O=C(CC#N)C1=CSC=C1 | C7H5NOS
